US07141596B2
Step 1. Synthesis of 5-(4-[(4-phenoxybenzyl)oxy]methylphenyl)isothiazol-3(2H)-one 1,1-dioxide
5-[4-(Hydroxymethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide (80 mg, 0.33 mmol) was suspended in 4 M hydrogen chloride in 1,4-dioxane (2.0 mL). 4-Phenoxybenzaldehyde (0.080 mL, 0.46 mmol) was added, followed 15 minutes later by triethylsilane (0.075 mL, 0.47 mmol). After stirring for 21 h, additional triethylsilane (0.050 mL, 0.31 mmol) was added, followed 3.5 h later by 4 M hydrogen chloride in 1,4-dioxane (1.0 mL, 4 mmol). The product was purified on a 50 mm Luna C18 column using a 20–100% acetonitrile in water gradient with 0.05% trifluoroacetic acid at 30 mL per minute over a 30 minute period. The product was lyophilized to give a white powder (7 mg, 5%). 1H NMR (400 MHz, CDCl3): δ 7.80 (d, J=8.4 Hz, 2H), 7.54 (d, J=8.6 Hz, 2H), 7.34 (m, 4H), 7.11 (t, J=1.2 Hz, 1H), 7.01 (m, 4H), 6.71 (s, 1H), 4.63 (s, 2H), 4.56 (s, 2H); LCMS found for C23H19NNaO5S (M+Na)+: m/z=444.0.

reactant | 5-[4-(Hydroxymethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide | 0.33 mmol, 80 mg | OCC1=CC=C(C=C1)C1=CC(NS1(=O)=O)=O | C10H9NO4S
reactant | 4-Phenoxybenzaldehyde | 0.46 mmol, 0.080 mL | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | triethylsilane | 0.47 mmol, 0.075 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 0.31 mmol, 0.050 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | 4 M | Cl | ClH
product | 5-(4-[(4-phenoxybenzyl)oxy]methylphenyl)isothiazol-3(2H)-one 1,1-dioxide | 7 mg, 5% | O(C1=CC=CC=C1)C1=CC=C(COCC2=CC=C(C=C2)C2=CC(NS2(=O)=O)=O)C=C1 | C23H19NO5S
